US05849779
To a solution of 3-amino-4-ethoxycarbonylpyrazole (1.0 g) in THF (10 ml), was added di-tert-butyl dicarbonate (2.2 g), and the mixture was stirred overnight at room temperature. The reaction mixture was evaporated under reduced pressure followed by silica-gel column chromatography (toluene/ethyl acetate=15/1) to give 3-amino-1(tert-butoxycarbonyl)-4-ethoxycarbonylpyrazole (0.59 g). This intermediate was derived to N-phenyl-N'-(1-tert-butoxycarbonyl-4-ethoxycarbonylpyrazol-3-yl)urea by the similar method to Reference Example 1 (yield 75%). N-phenyl-N'-(1-tertbutoxycarbonyl-4-ethoxycarbonylpyrazol-3-yl)urea (0.5 g) was dissolved in a solution of 10% trifluoroacetic acid in dichloromethane (7 ml), and the resulted solution was stirred overnight at room temperature. The reaction mixture was evaporated under reduced pressure followed by addition of ether to give the title compound (0.304 g, yield 83%).

reactant | 3-amino-4-ethoxycarbonylpyrazole | 1.0 g | NC1=NNC=C1C(=O)OCC | C6H9N3O2
reactant | di-tert-butyl dicarbonate | 2.2 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 3-amino-1(tert-butoxycarbonyl)-4-ethoxycarbonylpyrazole | 0.59 g | NC1=NN(C=C1C(=O)OCC)C(=O)OC(C)(C)C | C11H17N3O4
